US04388463
To a mixture of 2 g (7.37 mmol) 4-methoxymorphinan-6-one (H2O was removed azeotropic) and 3 g (21.71 mmol) K2CO3 in 20 ml dry DMF was dropped at room temperature during 15 min. a solution of 900 mg (7.59 mmol) cyclobutanecarboxylic acid chloride. This mixture was stirred at room temperature for 1 h, then poured on 200 ml ice water and extracted with ether. The organic layer was extracted with 2 N HCl and brine, dried and evaporated to give an oil, which was crystallized with benzene/u/hexane to yield 2.5 g (96%) N-cyclobutylcarbonyl-4-methoxymorphinan-6-one, m.p. 125°-126°, [α]D26 -204.5° (c 0.76, CHCl3).

reactant | 4-methoxymorphinan-6-one | 7.37 mmol, 2 g | COC1=CC=CC=2C[C@@H]3[C@@H]4CCC(C[C@@]4(C12)CCN3)=O | C17H21NO2
reactant | K2CO3 | 21.71 mmol, 3 g | C(=O)([O-])[O-].[K+].[K+]
reactant | cyclobutanecarboxylic acid chloride | 7.59 mmol, 900 mg | C1(CCC1)C(=O)Cl | C5H7ClO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | N-cyclobutylcarbonyl-4-methoxymorphinan-6-one | 2.5 g, 96% | C1(CCC1)C(=O)N1[C@H]2[C@@H]3CCC(C[C@@]3(C=3C(=CC=CC3C2)OC)CC1)=O | C22H27NO3
